US04152441
At a temperature of -60° C. and under a nitrogen atmosphere, 114 ml. (0.24 mol) of butyllithium solution (20% in hexane) were added drop-wise with stirring to a solution of 28 g. (0.20 mol) of 1-(methoxymethyl)-4,5-dimethylimidazole and 28 g. (0.24 mol) of N,N,N',N'-tetramethylethylenediamine in 200 ml. of anhydrous tetrahydrofuran. After 2 hours stirring, 50 g. (0.20 mol) of 4,4'-dichlorobenzophenone in 250 ml of anhydrous tetrahydrofuran were added drop-wise at -60° C. After being kept standing overnight, the reaction mixture was extracted with water and the organic phase was concentrated by distilling off the solvents. The residue was treated with 2 N hydrochloric acid and diethyl ether, which resulted in the formation of an organic and aqueous layer with an oily intermediate layer. The aqueous and oily layers were made alkaline with ammonia and extracted with diethyl ether. The extract was dried over sodium sulphate and the solvent was distilled off. The oily residue was thrice recrystallised from isopropyl alcohol. α,α-Bis(p-chlorophenyl)-1-(methoxymethyl)-4,5-dimethylimidazole-2-methanol was obtained. Melting point 151° C.

reactant | butyllithium | 0.24 mol | C(CCC)[Li]
reactant | 1-(methoxymethyl)-4,5-dimethylimidazole | 0.20 mol | COCN1C=NC(=C1C)C | C7H12N2O
reactant | N,N,N',N'-tetramethylethylenediamine | 0.24 mol | CN(CCN(C)C)C | C6H16N2
reactant | 4,4'-dichlorobenzophenone | 0.20 mol | ClC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C13H8Cl2O
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | α,α-Bis(p-chlorophenyl)-1-(methoxymethyl)-4,5-dimethylimidazole-2-methanol | ClC1=CC=C(C=C1)C(O)(C=1N(C(=C(N1)C)C)COC)C1=CC=C(C=C1)Cl | C20H20Cl2N2O2
